US04997940
Preparation of 3-cyano-5,7-dimethyl-N-(2,6-dichlorophenyl)pyrazolo[1,5-a]pyrimidine-2-sulfonamide
A solution of 0.67 g (4.1 mmole) of 2,6-dichloroaniline was stirred at room temperature as a solution of 1.1 g (4.1 mmole) of 3-cyano-5,7-dimethylpyrazolo-[1,5-a]pyrimidine-2-sulfonyl chloride in 3 ml pyridine was added. The mixture was heated at 70° C. for 15 hours, then at 130° C. for 24 hours, and cooled to room temperature. The mixture was diluted with 2-propanol and stirred at room temperature for 1 hour. The tan solid was collected by filtration, washed well with 2-propanol and dried to give 0.9 g tan powder. This was completely dissolved in 2N NaOH and extracted with CH2Cl2. The aqueous layer was separated and acidified with glacial HOAc, which gave a precipitate. This was collected by filtration, washed well with water and dried to give 0.2 g (12.3 -percent) of the product as an off-white solid, m.p. 280°-285° C. (decomposition and degassing). 1H NMR (DMSO-d-6): 11.1 (br., 1H, NH), 7.5-7.4 (m, 3H, benzene), 7.5 (s, 1H, pyrazolopyrimidinyl H-6), 2.67 (s, 3H, CH3), 2.63 (s, 3H, CH3) 13C NMR (DMSO-d-6): 165, 156, 150, 148, 136, 130, 129, 114, 111, 80, 24, 16. IR (KBr): 3220, 2240, 1620, 1540, 1440, 1355, 1170 cm-1.

reactant | 2,6-dichloroaniline | 4.1 mmole, 0.67 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | 3-cyano-5,7-dimethylpyrazolo-[1,5-a]pyrimidine-2-sulfonyl chloride | 4.1 mmole, 1.1 g | C(#N)C=1C(=NN2C1N=C(C=C2C)C)S(=O)(=O)Cl | C9H7ClN4O2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | 2-propanol | CC(C)O | C3H8O
product | 3-cyano-5,7-dimethyl-N-(2,6-dichlorophenyl)pyrazolo[1,5-a]pyrimidine-2-sulfonamide | 0.9 g | C(#N)C=1C(=NN2C1N=C(C=C2C)C)S(=O)(=O)NC2=C(C=CC=C2Cl)Cl | C15H11Cl2N5O2S
